US07253161B2
Step A: 6-Methoxy-2-(2-oxopropyl)-1,2-benzisothiazol-3(2H)-one 1,1-dioxide
360 mg of 6-methoxy-1,1-dioxo-1,2-dihydro-benzo[d]isothiazol-3-one are added in small portions to a suspension of 72 mg of 60% NaH in mineral oil in 1.6 ml of anhydrous dimethylformamide. After stirring for 30 min. at ambient temperature, the reaction mixture becomes homogeneous and 162 μl of chloroacetone are added thereto. The reaction mixture is heated at 110° C. for 30 min. It is allowed to return to ambient temperature, and then the mixture is precipitated by addition of water. The precipitate is filtered off, rinsed several times with water, suction-filtered off and dried in vacuo.

reactant | 6-methoxy-1,1-dioxo-1,2-dihydro-benzo[d]isothiazol-3-one | 360 mg | COC1=CC2=C(C(NS2(=O)=O)=O)C=C1 | C8H7NO4S
reactant | NaH | 72 mg | [H-].[Na+]
reactant | chloroacetone | 162 μl | ClCC(C)=O | C3H5ClO
solvent | dimethylformamide | 1.6 ml | CN(C=O)C | C3H7NO
product | 6-Methoxy-2-(2-oxopropyl)-1,2-benzisothiazol-3(2H)-one 1,1-dioxide | COC1=CC2=C(C(N(S2(=O)=O)CC(C)=O)=O)C=C1 | C11H11NO5S
